US06677368B2
To the suspension of 4-(2,6-difluoro-phenyl)-1H-indole (9.5 g, 41.4 mmol) in t-BuOH:ethanol:acetic acid (262 mL:155 mL:81 mL) was added pyridinium tribromide (40.28 g, 126 mmol) portionwise. The mixture was stirred at room temperature for 3 hours, and then to the mixture was added more acetic acid (200 mL). Zinc dust (14.2 g, 217 mmol) was added to the reaction mixture portionwise. After stirring for one hour, the unreacted zinc was filtered off and most of the solvent was removed under reduced pressure. The residue was diluted with ethyl acetate, washed with water (5×), sat. NaHCO3 (2×), brine (3×), dried over Na2SO4, concentrated, triturated with ether to give 7.1 g (70%) of 4-(2,6-difluoro-phenyl)-1,3-dihydro-indol-2-one as a white solid.

reactant | 4-(2,6-difluoro-phenyl)-1H-indole | 41.4 mmol, 9.5 g | FC1=C(C(=CC=C1)F)C1=C2C=CNC2=CC=C1 | C14H9F2N
reactant | ethanol | C(C)O | C2H6O
reactant | acetic acid | 262 mL | C(C)(=O)O | C2H4O2
reactant | pyridinium tribromide | 126 mmol, 40.28 g | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
solvent | t-BuOH | CC(C)(C)O | C4H10O
catalyst | Zinc | 217 mmol, 14.2 g | [Zn] | Zn
product | 4-(2,6-difluoro-phenyl)-1,3-dihydro-indol-2-one | 7.1 g, 70% | FC1=C(C(=CC=C1)F)C1=C2CC(NC2=CC=C1)=O | C14H9F2NO
